US05808062
4-Hydroxy-3-[(phenylmethyl)thio]-6-(3-thienyl)-2H-pyran-2-one.
The title compound was prepared from the condensation of the trimethylsilyl enol ether of 3-acetylthiophene and the diethyl ester of [(phenylmethyl)thio]propanedioic acid following the same procedure outlined in Method A; m.p. 150°-151° C. NMR (DMSO-d6) δ 3.98 (s, 2 H), 6.58 (s, 1 H), 7.24 (m, 5 H), 7.48 (m, 1 H), 7.72 (m, 1 H), 8.13 (d, 1 H).

reactant | 3-acetylthiophene | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | [(phenylmethyl)thio]propanedioic acid | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
product | 4-Hydroxy-3-[(phenylmethyl)thio]-6-(3-thienyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CSC=C1)=O)SCC1=CC=CC=C1 | C16H12O3S2
